US08314088B2
2-chloro-6-[2-(methoxymethyl)pyrrolidin-1-yl]pyrazine
A solution of 2,6-dichloropyrazine (1.18 g), 2-(methoxymethyl)pyrrolidine (1.0 g) and potassium carbonate (1.64 g) in DMA (15 mL) was stirred at 80° C. for 16 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (solvent gradient: 5→15% ethyl acetate/hexane) to give the title compound (1.45 g, 80%).

reactant | 2,6-dichloropyrazine | 1.18 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-(methoxymethyl)pyrrolidine | 1.0 g | COCC1NCCC1 | C6H13NO
reactant | potassium carbonate | 1.64 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMA | 15 mL | CC(=O)N(C)C | C4H9NO
product | 2-chloro-6-[2-(methoxymethyl)pyrrolidin-1-yl]pyrazine | 1.45 g, 80% | ClC1=NC(=CN=C1)N1C(CCC1)COC | C10H14ClN3O
